US06458810B1
A solution of 3-(4-amino-1-oxoisoindolin-2-yl)-2,6-dioxo-5-acetoxypiperidine (0.96 g, 3.5 mmol) and p-toluenesulfonic acid (0.33 g, 1.8 mmol) in methanol (10 mL) is heated at reflux for 5 hours. The solvent is removed in vacuo to give 4-amino-2-(5-hydroxy-2,6-dioxopiperid-3-yl)isoindoline-1-one which is further purified by column chromatography.

reactant | 3-(4-amino-1-oxoisoindolin-2-yl)-2,6-dioxo-5-acetoxypiperidine | 3.5 mmol, 0.96 g | NC1=C2CN(C(C2=CC=C1)=O)C1C(NC(C(C1)OC(C)=O)=O)=O | C15H15N3O5
reactant | p-toluenesulfonic acid | 1.8 mmol, 0.33 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 10 mL | CO | CH4O
product | 4-amino-2-(5-hydroxy-2,6-dioxopiperid-3-yl)isoindoline-1-one | NC1=C2CN(C(C2=CC=C1)=O)C1C(NC(C(C1)O)=O)=O | C13H13N3O4
